US09388189B2
(S)-5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)benzo[d]oxazol-2(3H)-one
(S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (35 mg, 0.07 mmol) was treated with 1-(2-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea (38 mg, 0.11 mmol), sodium carbonate (2M, 34 μl, 0.07 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(11)dichloride dichloromethane complex (9 mg, 0.01 mmol) according to the method described in Example 3 to give 17 mg (48% yield) of the title compound. Purity 97%.

reactant | (S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.07 mmol, 35 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)I | C19H18IN7O
reactant | 1-(2-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea | 0.11 mmol, 38 mg | OC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)N | C13H19BN2O4
reactant | sodium carbonate | 0.07 mmol, 2M, 34 μl | C([O-])([O-])=O.[Na+].[Na+]
product | (S)-5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)benzo[d]oxazol-2(3H)-one | 17 mg, 48% yield | NC1=NC=NC(=C1C=1C=CC2=C(NC(O2)=O)C1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C26H22N8O3
